Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mrs. ___ ___ yo woman with history of HTN, CHF, and valvular 
heart disease presents with chest pain. Patient appears to be 
fairly demented, is a poor historian. Per ED report, the patient 
had told her daughter that she had pain, and pointed to her 
sternum. Unfortunately patient was unable to answer any further 
questions. She usually goes to ___ for 
care in the past and was admitted in ___ for a CHF exacerbation. 
 
.  
Patient's daughter is her primary caretaker, restricts her 
mother to 3 bottles of water a day (appx. 1500ml). Reports that 
patient's sodium tends to run low, had been as low as 126 
recently.  
.  
In the ED, patient's EKG showed normal sinus rhythm with ___ 
degree AV block, no acute ST changes. Troponins have been 
negative x2. Patient was given aspirin in the ED.  
.    

 
Past Medical History:
- HTN  
- CHF  
- valvular heart disease  
- s/p left total hip replacement  

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
VS: T:97.4 BP:123/78 HR:84 RR:20 O2:99%RA  

Gen: Elderly female resting comfortably in NAD  
HEENT: PERRLA, no LAD, neck supple, no JVD  
CV: S1S2, RRR, III/VI SEM  
Pulm: Diffuse rales, Symmetric air movement  
Abd: soft, ND, NT, +BS  
Ext: no e/c/c, peripheral pulses palpable  
Neuro:  Oriented to Person Only.

 
Pertinent Results:
___ 08:10PM BLOOD Glucose-99 UreaN-28* Creat-0.5 Na-127* 
K-4.7 Cl-88* HCO3-31 AnGap-13
___ 01:00PM BLOOD Glucose-87 UreaN-18 Creat-0.4 Na-130* 
K-4.5 Cl-90* HCO3-31 AnGap-14
.
.

___ 08:10PM BLOOD WBC-8.2 RBC-4.26 Hgb-12.7 Hct-36.9 MCV-87 
MCH-29.8 MCHC-34.4 RDW-13.2 Plt ___
___ 01:00PM BLOOD WBC-6.6 RBC-4.11* Hgb-12.2 Hct-36.0 
MCV-88 MCH-29.7 MCHC-33.9 RDW-13.5 Plt ___
.
.
___ 08:10PM BLOOD cTropnT-<0.01
___ 02:59AM BLOOD cTropnT-<0.01
___ 01:00PM BLOOD CK-MB-5 cTropnT-<0.01

 
Brief Hospital Course:
Mrs. ___ is an ___ yo woman with history of HTN, CHF, and 
valvular heart disease presents with chest pain.  
.  
#. Chest pain - Her symptoms were unclear because she is unable 
to communicate them clearly. Given her history of HTN and CHF, a 
cardiac event was the most concerning. Her EKG showed no acute 
changes to suggest MI and troponins were negative x3 effectively 
ruling out an MI. These symptoms of vertical sternal chest pain 
may likely represent reflux disease. Throughout her admission, 
Mrs. ___ was monitored on telemetry and was started on Asprin 
81mg. Atenolol was continued throughout discharge. 
.  
#. HTN - currently well controlled  
- continue atenolol  
.  
#. CHF - Unknown EF. She appeared euvolemic.  
- continue lasix
.  
#. Hyponatremia - Likely due to fluid balance or SIADH. 
Patient's daughter describes that her sodium is generally on the 
low side, recently it has been as low as 126. Sodium up-trending 
on discharge. Most recent sodium level was 130.
.  
#. Dementia - patient is fairly demented  
- fall precautions
 
Medications on Admission:
atenolol 50 mg daily  
lasix 20 mg daily  
ferrous sulfate 220mg/5mL 5mL BID  
Centrium liquid daily  
caltrate 600+D 1 tablet BID  
Metamucil daily  
 
Discharge Medications:
1. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Ferrous Sulfate 300 mg (60 mg Iron)/5 mL Liquid Sig: One (1)  
PO BID (2 times a day).  
4. Therapeutic Multivitamin     Liquid Sig: Five (5) ML PO DAILY 
(Daily).  
5. Calcium 600 + D(3) 600-400 mg-unit Tablet Sig: One (1) Tablet 
PO twice a day.  
6. Metamucil     Powder Sig: One (1)  PO once a day as needed 
for constipation.  
7. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO once a day.
Disp:*30 Tablet, Chewable(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Chest Pain
Hyponatremia
CHF
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
You were admitted to the hospital for chest pain. Your EKG and 
blood work showed that you did not have a heart attack. You 
should follow up with your primary care doctor. You should take 
your home medication as described in this document.

1. You were STARTED on Aspirin 81mg daily
 
Followup Instructions:
___